US06657060B2
In analogy to example 12c), by heating (E)-2-[2-(2,4-dichloro-phenyl)-vinyl]-6-methyl-pyrimidin-4-ol (0.5 g, 1.78 mmol) in POCl3 (3.26 ml, 35.6 mmol) at 130° C. for 4.5 h there was obtained (E)-4-chloro-2-[2-(2,4-dichloro-phenyl)-vinyl]-6-methyl-pyrimidine (0.491 g, 92%) as a pink solid. EI mass spectrum, m/e: 298 (M calculated for C13H9Cl3N2: 298).

reactant | (E)-2-[2-(2,4-dichloro-phenyl)-vinyl]-6-methyl-pyrimidin-4-ol | 1.78 mmol, 0.5 g | ClC1=C(C=CC(=C1)Cl)/C=C/C1=NC(=CC(=N1)O)C | C13H10Cl2N2O
reactant | POCl3 | 35.6 mmol, 3.26 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (E)-4-chloro-2-[2-(2,4-dichloro-phenyl)-vinyl]-6-methyl-pyrimidine | 0.491 g, 92% | ClC1=NC(=NC(=C1)C)\C=C\C1=C(C=C(C=C1)Cl)Cl | C13H9Cl3N2
